US07425568B2
2-[2-(3,5-Difluorophenyl)chroman-6-yloxy]-5-nitropyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) starting from 340 mg of 2-(3,5-difluorophenyl)chroman-6-ol. The product was purified on preparative TLC-plate covered with silica gel using toluene-ethyl acetate as an eluant and then crystallised from 2-propanol. 1H NMR (400 MHz, d6-DMSO) δ:9.04 (d, 1H, J 2.9 Hz), 8.60 (dd, 1H, J 9.1, 2.9 Hz), 7.23-7.19 (m, 4H), 7.01-6.95 (m, 3H), 5.18 (dd, 1H, J 10.0, 2.1 Hz), 2.97 (ddd, 1H, J −16.9, 10.9, 5.7 Hz), 2.76 (ddd, 1H, J −16.9, 8.4, 4.7 Hz), 2.22 (m, 1H), 1.99 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(3,5-difluorophenyl)chroman-6-ol | 340 mg | FC=1C=C(C=C(C1)F)C1OC2=CC=C(C=C2CC1)O | C15H12F2O2
product | 2-[2-(3,5-Difluorophenyl)chroman-6-yloxy]-5-nitropyridine | FC=1C=C(C=C(C1)F)C1OC2=CC=C(C=C2CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C20H14F2N2O4
